US07410976B2
1-(2-Trimethylsilanyl-ethoxymethyl)-piperazin-2-one.
3-Oxo-4-(2-trimethylsilanyl-ethoxymethyl)-piperazine-1-carboxylic acid benzyl ester (3.00 g, 8.22 mmol) was dissolved in TIF (30 ml) and MeOH (30 ml), and vigorously stirred on 20% Pd(OH)2/C under a hydrogen atmosphere (1 atm) for 14 h. After N2 was purged, Pd(OH)2/C was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CHCl3/MeOH=95/5 to 90/10) to obtain the intended compound as a colorless oil.

reactant | 3-Oxo-4-(2-trimethylsilanyl-ethoxymethyl)-piperazine-1-carboxylic acid benzyl ester | 8.22 mmol, 3.00 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)COCC[Si](C)(C)C)=O | C18H28N2O4Si
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-piperazin-2-one | C[Si](CCOCN1C(CNCC1)=O)(C)C | C10H22N2O2Si
